### PR TITLE
feat(Computability/NFA): Kleene star closure for Regular Languages via NFA

### PR DESCRIPTION
**Pull request by rudynicolop**
This PR constructs a Kleene star closure for non-epsilon NFAs, and proves that regular languages are closed under Kleene star. The NFA construction is `NFA.kstar`. The main theorems are:
- `NFA.accepts_kstar`: demonstrates that `M.kstar` accepts the Kleene star closure of the language of `M`.
- `IsRegular.kstar`: demonstrates that regular languages are closed under Kleene star.

There is an onging zulip discussion about regular languages in Mathlib: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Regular.20languages.3A.20the.20review.20queue/with/553759136

This discussion is also tracked at #24205.

Furthermore, the construction and proofs in this PR are heavily inspired by @TpmKranz from his #15651. #15651 supersedes this PR, so if it is accepted then this PR is not needed.

---

- [x] depends on: #31038

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/NFA.lean [hunk 1]
```diff
@@ -1,12 +1,13 @@
...
 Copyright (c) 2020 Fox Thomson. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Fox Thomson, Maja Kądziołka, Chris Wong, Rudy Peterson
+Authors: Fox Thomson, Maja Kądziołka, Chris Wong, Tom Kranz, Rudy Peterson
 -/
 module
 
 public import Mathlib.Computability.DFA
 public import Mathlib.Data.Fintype.Powerset
+public import Mathlib.Data.Fintype.Option
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:10]:
```suggestion
public import Mathlib.Data.Fintype.Option
public import Mathlib.Data.Fintype.Powerset
```

File: Mathlib/Computability/NFA.lean [hunk 2]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+  transitions for `M.step s a`, we also *create* transitions `some s' ∈ M.kstarStep (some s) a` for
+  every state `s' ∈ M.start` such that there exists some `s'' ∈ M.accept` and `s'' ∈ M.step s a`.
+  This cases "closes the loop" for the Kleene closure. -/
+@[simp]
+def kstarStep : Option σ → α → Set (Option σ)
+| none, _ => ∅
+| some s, a => M.kstarStates <| M.step s a
+
+variable (M) in
+/-- `M.kstar` is the Kleene closure of NFA `M`: if `M` accepts langauge `L`, then `M.kstar` accepts
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:500]:
```suggestion
/-- `M.kstar` is the Kleene closure of NFA `M`: if `M` accepts language `L`, then `M.kstar` accepts
```

File: Mathlib/Computability/NFA.lean [hunk 3]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+language `L∗`. Construction from Mathlib#15651 by Tom Kranz. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:501]: You should give credit in the PR description, not here
```suggestion
language `L∗`. -/
```

File: Mathlib/Computability/NFA.lean [hunk 4]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+@[simps]
+def kstar : NFA α (Option σ) where
+  step := M.kstarStep
+  start := M.kstarStart
+  accept := M.kstarAccept
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:506]: Do you think we care about the implementation here? If not, you could make all the intermediate definitions private

File: Mathlib/Computability/NFA.lean [hunk 5]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+
+theorem mem_acceptsFrom_impl_mem_acceptsFrom_kstar {S : Set σ} {x : List α} :
+    x ∈ M.acceptsFrom S →
+    x ∈ M.kstar.acceptsFrom (M.kstarStates S) := by
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:510]:
```suggestion
theorem mem_acceptsFrom_kstar_kstarStates {S : Set σ} {x : List α} :
    x ∈ M.acceptsFrom S →
    x ∈ M.kstar.acceptsFrom (M.kstarStates S) := by
```

File: Mathlib/Computability/NFA.lean [hunk 6]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+    simp_rw [cons_mem_acceptsFrom, stepSet, kstarStates, acceptsFrom_iUnion₂, ↑Set.mem_iUnion₂,
+      exists_prop, mem_image]
+    tauto
+
+/-- State `none` is only reachable from itself in `M.kstar`. -/
+theorem mem_kstarStates_not_none {S : Set σ} : none ∉ M.kstarStates S := by
+  simp [kstarStates]
+
+/-- State `none` is only reachable from itself in `M.kstar`. -/
+theorem mem_stepSet_kstar_not_none {S : Set (Option σ)} {a : α} :
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:528]:
```suggestion
theorem none_notMem_stepSet_kstar {S : Set (Option σ)} {a : α} :
```

File: Mathlib/Computability/NFA.lean [hunk 7]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+  | singleton a =>
+    simp [mem_stepSet_kstar_not_none]
+  | cons_cons a b x _ ih =>
+    intro _
+    rw [evalFrom_cons]
+    apply ih
+    tauto
+
+/-- State `none` is only reachable from itself in `M.kstar`. -/
+theorem evalFrom_kstar_none {S : Set (Option σ)} {x : List α} :
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:554]:
```suggestion
theorem none_mem_evalFrom_kstar {S : Set (Option σ)} {x : List α} :
```

File: Mathlib/Computability/NFA.lean [hunk 8]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+    none ∈ M.kstar.evalFrom S x → x = [] ∧ none ∈ S := by
+  cases x with
+  | nil =>
+    simp
+  | cons a x =>
+    intro h
+    obtain ⟨⟩ := mem_evalFrom_kstar_not_none (by tauto) h
+
+/-- State `none` is only reachable from itself in `M.kstar`. -/
+theorem acceptsFrom_kstar_none : M.kstar.acceptsFrom {none} = {[]} := by
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:564]: simp?

File: Mathlib/Computability/NFA.lean [hunk 9]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+    rintro rfl
+    simp
+
+/-- When a state `t ∈ M.evalFrom S x`, then `some t ∈ M.kstar.evalFrom (some '' S) x`. In this
+proof, we only require paths originally in `M`, and ignore any transitions from penultimate states
+to start states from [M.kstarStates]. Essentially, we demonstrate that any paths in `M` are also
+in `M.kstar`. -/
+theorem mem_evalFrom_impl_mem_evalFrom_kstar {x : List α} {S : Set σ} {t : σ} :
+    t ∈ M.evalFrom S x →
+    some t ∈ M.kstar.evalFrom (some '' S) x := by
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:583]: As before, this is misnamed

File: Mathlib/Computability/NFA.lean [hunk 10]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+originally from `M`, avoiding the transition from a pentulitmate state to a start state.
+Note that this property fails to hold if we allow `x = []`, since some arbitrary `S` may not
+include the start states. We require at least one transition in order to ensure the path may lead
+to any start state to enable looping. -/
+theorem mem_evalFrom_impl_mem_evalFrom_kstar_start {x : List α} {S : Set σ} {s t : σ} :
+    x ≠ [] →
+    t ∈ M.accept →
+    t ∈ M.evalFrom S x →
+    s ∈ M.start →
+    some s ∈ M.kstar.evalFrom (some '' S) x := by
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:615]: Again

File: Mathlib/Computability/NFA.lean [hunk 11]
```diff
@@ -407,6 +422,384 @@ theorem mem_accepts_reverse {x : List α} : x ∈ M.reverse.accepts ↔ x.revers
...
+accepting path to return to the start. By enabling this "restart", we enable Kleene closure
+looping. In each case, we select the accepting path as follows:
+* vacuous case `M.evalFrom S []`: we violate the assumption that `x` is non-empty.
+* base case `M.evalFrom S [a]`: we reach the end, so we must end the path at a start state from a
+  penultimate state.
+* inductive case `M.evalFrom S (a :: x)` where `x ≠ []`: we must continue the path via transitions
+originally from `M`, avoiding the transition from a pentulitmate state to a start state.
+Note that this property fails to hold if we allow `x = []`, since some arbitrary `S` may not
+include the start states. We require at least one transition in order to ensure the path may lead
+to any start state to enable looping. -/
```
Comment (YaelDillies) [inline Mathlib/Computability/NFA.lean:609]:
```suggestion
  originally from `M`, avoiding the transition from a pentulitmate state to a start state.
  Note that this property fails to hold if we allow `x = []`, since some arbitrary `S` may not
  include the start states. We require at least one transition in order to ensure the path may lead
  to any start state to enable looping. -/
```
